US07053085B2
Step 1 Preparation of (4S)-4-[2-(4-methoxyphenoxy)ethyl]-2,2-dimethyl-1,3-dioxolane
To a solution of 2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethanol (Aldrich, 5 g, 34.2 mmol) in THF was added sodium hydride 60% (1.504 g, 37.6 mmol, 1.1 eq) portionwise and the mixture stirred for 1 h (cloudy solution). The mixture was cooled to 0° C. and to it was added 4-methoxybenzyl chloride (5.89 g, 37.6 mmol, 1.1 equivalent (eq.)) in one portion and the mixture stirred at the temperature for 30 min and heated to 65–70° C. overnight. After cooling to rt and quenching with saturated NH4Cl/water, the mixture was extracted with ethyl acetate (2×) and the organic extracts were washed with water, brine and dried over MgSO4. The mixture was filtered and the filtrate was concentrated in vacuo. The crude product was purified by silica gel chromatography (15% ethyl acetate/hexanes) to give desired product as a colorless oil. 1H NMR (400 MHz, Acetone-d6): δ7.28 (2 H, d), 6.93–6.91 (2 H, m), 4.43 (2 H, s), 4.20–4.14 (1 H, m), 4.04–3.98 (1 H, m), 3.80 (3H, s), 3.56–3.50 (3H, m), 1.88–1.76 (2H, m), 1.31 (3H, s), 1.28 (3 H, s).

reactant | 2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethanol | 34.2 mmol, 5 g | CC1(OC[C@@H](O1)CCO)C | C7H14O3
reactant | sodium hydride | 37.6 mmol, 1.504 g, 1.1 eq | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 37.6 mmol, 5.89 g, 1.1 equivalent | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | THF | C1CCOC1 | C4H8O
product | (4S)-4-[2-(4-methoxyphenoxy)ethyl]-2,2-dimethyl-1,3-dioxolane | COC1=CC=C(OCC[C@@H]2OC(OC2)(C)C)C=C1 | C14H20O4
